US07138425B2
b) 2-[2-Methoxy-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method described in Example 1b), from 2-(3-amino-4-methoxyphenyl)-5-phenylbenzoxazole (73 mg, 0.23 mmol) and 1,2,4-benzenetricarboxylic anhydride (50 mg, 0.26 mmol) the title compound was obtained, 50 mg (44%). 1H NMR (DMSO) δ 8.46(dd, 1H), 8.35(m, 3H), 8.13(d, 1H), 8.03(d, 1H), 7.84(d, 1H), 7.73(m, 3H), 7.49(m, 3H), 7.39(t, 1H), 3.90(s, 3H). MS 489 m/z (M−H)−.

reactant | 2-(3-amino-4-methoxyphenyl)-5-phenylbenzoxazole | 0.23 mmol, 73 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C20H16N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.26 mmol, 50 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H18N2O6
